US08791265B2
methyl [(2,5-difluorophenyl)sulfonyl]{3-[1-ethyl-4-(pyridin-4-yl)-1H-pyrazol-3-yl]-2,4-difluorophenyl}carbamate (Cmpd No. 1)
N-{2,4-difluoro-3-[1-ethyl-4-(pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-2,5-difluorobenzenesulfonamide (80 mg, 0.168 mmol) was suspended in 3.5 mL of DCM and TEA (18.7 mg, 25.8 μL, 0.185 mmol) was added. Methyl chloroformate (17.5 mg, 13.0 L, 0.185 mmol) was added to the solution so obtained, and the reaction mixture was stirred at room temperature for 3 hours, diluted with DCM, and poured in water. The organic layer was washed three times with water, once with brine, dried over Na2SO4 and concentrated to dryness. The solid so obtained was taken up with ethyl ether and filtered (72 mg, 80% yield)

reactant | N-{2,4-difluoro-3-[1-ethyl-4-(pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-2,5-difluorobenzenesulfonamide | 0.168 mmol, 80 mg | FC1=C(C=CC(=C1C1=NN(C=C1C1=CC=NC=C1)CC)F)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C22H16F4N4O2S
reactant | Methyl chloroformate | 0.185 mmol, 13.0 L, 17.5 mg | ClC(=O)OC | C2H3ClO2
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | DCM | 3.5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | methyl [(2,5-difluorophenyl)sulfonyl]{3-[1-ethyl-4-(pyridin-4-yl)-1H-pyrazol-3-yl]-2,4-difluorophenyl}carbamate | 80% yield | FC1=C(C=C(C=C1)F)S(=O)(=O)N(C(OC)=O)C1=C(C(=C(C=C1)F)C1=NN(C=C1C1=CC=NC=C1)CC)F | C24H18F4N4O4S
